US04843070
2-Fluoro-6-methoxyaniline (7.80 g) and 17.23 g of di-(2-bromoethyl)amine hydrobromide were dissolved in 5 ml of water and, by heating at about 110° C. on a bath, 10 ml of 30% potassium hydroxide solution was added thereto (each about 3.5 ml once an hour). Heating was further continued (7 hours in total). After cooled, the reaction solution was made alkaline with aqueous solution of sodium hydroxide to salt out and extracted with chloroform twice. The extract was washed with saturated sodium chloride solution, dried over sodium sulfate, the solvent was evaporated therefrom, and the residue was purified by a column chromatography to give 8.95 g of oily 1-(2-fluoro-6-methoxyphenyl)piperazine in 34.94 g yield or 94%.

reactant | 2-Fluoro-6-methoxyaniline | 7.80 g | FC1=C(N)C(=CC=C1)OC | C7H8FNO
reactant | di-(2-bromoethyl)amine hydrobromide | 17.23 g | Br.BrCCNCCBr
reactant | potassium hydroxide | 10 ml | [OH-].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 5 ml | O | H2O
product | 1-(2-fluoro-6-methoxyphenyl)piperazine | 8.95 g | FC1=C(C(=CC=C1)OC)N1CCNCC1 | C11H15FN2O
